Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
Intubation/extubation, mechanical ventilation
Central venous line placement 
 
History of Present Illness:
___ y/o F DM1, CKD, hyperlipidemia who presents with acute onset 
seizure. Patient presented to ED to be evaluated for nausea, 
vomiting, diarrhea felt to be secondary gastroenteritis. During 
her ED course patient became less responsive (oriented to name 
only) and started seizing (fingerstick 297). Per report her gaze 
was deviated and left arm shaking. Patient recieved 4 mg ativan 
total and eventaully seizure broke. However during this time she 
was intubated to protect her airway. Prior to seizure patient 
was recieving ciprofloxacin for ? pyelonephritis, however per 
report only received several minutes worth. Neurology evalauted 
who recommended MRI, EEG and felt this could be secondary to 
infection versus PRES. Initial VS were: T 95.6 P 45 BP 243/88 R 
18 O2 sat 99 RA. Patient's blood pressure ranged from 
136/49-231/88). 

 
Past Medical History:
1. Sciatica with h/o laminectomy.  
2. DM1 for ___ years, on insulin pump, with gastroparesis, CKD, 
peripheral neuropathy  
3. Hypercholesterolemia  
4. h/o CP in ___, cardiac cath clean - sx's felt to be ?spasms, 

recent MIBI ___ wnl 
5. HTN  
6. Hiatal hernia  
7. s/p hysterectomy  
8. Hypothyroidism  
9. Autonomic Dysfunction
10.CKD II, baseline creat 1.3-1.5
11.PAD s/p recent fem-tib bypass RLE ___. Depression
13. DVT
14. ___ EGD ___. Orthostatic hypotension secondary to autonomic dysfunction 
16. PVD
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___
Father - coronary artery disease with MI in her ___, died at age 
___
 
Physical Exam:
General: Sedated, moves limbs spontaneously, withdraws to pain, 
intermittently squeezes hand to voice. 
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen:  soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
GU: no foley
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: Pupils 2mm b/l and reactive to light. Moves all limbs 
spontanenously. DTR patella ___. Right toes downgoing, left 
toes neither direction. 

 
Pertinent Results:
CT HEAD W/O CONTRAST Study Date of ___:  No acute 
intracranial hemorrhage or large infarct. If there is suspicion 
for other acute intracranial processes, MR can be ordered. 
.
CT Abdomen/Pelvis ___: Bilateral perinephric stranding 
without renal perfusion abnormality. Markedly distended urinary 
bladder. Correlation with UA is recommended..
.
CXR ___: No acute intrathoracic process. 
.
EKG: Normal axis. HR 76. Lateral changes most likely secondary 
to LVH. 
.
Trop-T: <0.01, CK 60  
.
135  95  24  372   AGap=23 
4.2  21  1.1  
.
___: 12.8  INR: 1.1  
.
 88 
8.5 > 13.6 < 198 
      41.0  
 N:93.2 L:3.2 M:2.9 E:0.5 Bas:0.2 
.
Serum tox negative, urine pos for benzos otherwise neg
.
EEG: pending 
.
MRI head: pending final read. Prelim read - no acute 
intracranial processes

 
Brief Hospital Course:
___ y/o F DM1, CKD, hyperlipidemia who presents with diarrhea, 
vomiting and developed witnessed seizure in ED. 
.
# Peripheral Vascular Disease - Pt was a known patient of Dr. 
___ was seen by the vascular team after admission. 
She was noted to have resting pain in her lower extremities and 
was worked up for this issue. Noninvasive vascular studies were 
c/w peripheral vascular disease and the patient was taken to the 
angio suite where she underwent angiography and balloon 
angioplasty of her previously existing graft. She tolerated the 
procedure and recovered from anesthesia without complication. 
She was observed postoperatively and was discharged to home with 
a creatinine of 1.0 
. 
# Seizure: No prior history per OMR or family. Unlikely to be 
secondary to electrolyte abnormalities (Na normal on admission) 
and hypoglycemia (glucose normal). Less likely to be Alcohol 
withdrawal or illicit medications as no prior history and 
serum/urine toxicology essential normal. Patient recently 
suffering from gastroenteritis, certain viral etiologies can 
infect CSF and result in menigitis. Other etiologies on the 
differential include structural mass or CVA but CT head and MRI 
head were within normal limits. EEG (24 hour) was performed, per 
neurology recs, which showed preliminarily no seizure activity, 
positive encephalopathy. Lumbar puncture was performed which was 
negative for meningitis. Patient's citalopram, gabapentin, 
lorazepam, reglan and chantix were initially held for 
possibility of lowering seizure threshold. They were slowly 
added back, starting with gabapentin and reglan as patient 
clinically improved. 
.
# Diarrhea, vomiting: Most likely gastroenteritis. However based 
on CAD/DM history patient was ruled out for inferior MI and EKGs 
within normal limits. 
.
# Hypertension: Seizure could be result of PRES (posterior 
reversible encephalopathy syndrome). HTN as outpatient 
significantly lower, SBP100-154. Patient's BP dropped from 230 
to 130 in ED following propofol. Once extubated, patient's blood 
pressures climbed to SBP180s which, per patient, is her 
baseline. She was resumed on her home lisinopril 10mg daily and 
given hydralazine 10mg IV as needed while in the MICU for 
management of her blood pressures. 
.
# Chronic pain: Gave IV morphine during MICU stay. Of note, has 
PCP in ___, who Rx's 40 mg oxycontin QAM, 10 mg QPM & oxyocodone 
___ mg daily PRN. Restarted patient on oxycontin 10 mg BID with 
good effect
.
# DM1: Continued on long acting glargine and insulin sliding 
scale, per ___ recs.
.
# Hypercholesterolemia: Simvastatin 40 mg qpm
.
# Hypothyroid: Continued levothyroxine. 
.
# CKD: Creatinine around baseline 1.2-1.5. 
.
# Depression: Hold meds that decrease seizure threshold.
.
# Autonomic orthostatic hypotension: NaCl 2 gram BID was 
discontinued in setting of hypertension. 
.
# Code:  Full
. 
 
Medications on Admission:
Calcitriol [Rocaltrol] 0.5 mcg Capsule(s) by mouth once a day 
Citalopram 40 mg Tablet 1 (One) Tablet(s) by mouth once a day 
Clopidogrel [Plavix] 75 mg Tablet 1 Tablet(s) by mouth once a 
day 
Cyclosporine 0.05 % Dropperette 2 drops to both eyes twice a day
Erythromycin 5 mg/gram Ointment apply bid to both eyes
Gabapentin 800 mg Tablet 1 Tablet(s) by mouth qam 
Insulin Glargine [Lantus] 100 unit/mL Solution 12 units at 
bedtime
Insulin Lispro [Humalog] 100 unit/mL Cartridge on insulin pump 
basal rate; 12am-4am 0.25 units hr 4a 0.15 units hr 5a 0.60 unit 
hr 8am 0.70 unit hr 8pm 0.50 unit hr 10pm 0.40 unit hr
Levothyroxine [Levoxyl] 75 mcg Tablet 1 Tablet(s) by mouth daily 

Lorazepam 0.5 mg Tablet 1 Tablet(s) by mouth qpm 
Metoclopramide 10 mg Tablet 1 (One) Tablet(s) by mouth 30 
minutes before meals 
Oxycodone 5 mg Tablet ___ Tablet(s) by mouth daily as needed for 
pain
Oxycodone 10 mg Tablet Sustained Release 12 hr 4 Tablet(s) by 
mouth in the morning and 1 tab by mouth in the evening  
Pantoprazole 40 mg Tablet, Delayed Release (E.C.) 1 Tablet(s) by 
mouth once a day 
Simvastatin [Zocor] 40 mg Tablet 1 Tablet(s) by mouth qpm 
Chantix
ASA 81mg
Calcium Carbonate 1500 mg qd
Vitamin B12, folate
MVI
Fish Oil
NaCl 2 gram BID
.
Allergies: Codeine

 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*qs Tablet(s)* Refills:*2*
3. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*qs Tablet(s)* Refills:*2*
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).
Disp:*30 Tablet, Chewable(s)* Refills:*2*
5. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).
Disp:*qs Tablet(s)* Refills:*2*
6. Omega-3 Fatty Acids     Capsule Sig: One (1) Capsule PO DAILY 
(Daily).
Disp:*qs Capsule(s)* Refills:*2*
7. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).
Disp:*qs Tablet, Delayed Release (E.C.)(s)* Refills:*2*
8. Calcium Carbonate 500 mg Tablet, Chewable Sig: Three (3) 
Tablet, Chewable PO DAILY (Daily).
Disp:*qs Tablet, Chewable(s)* Refills:*2*
9. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*qs Tablet(s)* Refills:*2*
10. Metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QIDACHS 
(4 times a day (before meals and at bedtime)).
Disp:*qs Tablet(s)* Refills:*2*
11. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).
Disp:*qs Capsule(s)* Refills:*2*
12. Cyanocobalamin 500 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).
Disp:*qs Tablet(s)* Refills:*2*
13. Oxycodone 10 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO QHS (once a day (at bedtime)).
Disp:*qs Tablet Sustained Release 12 hr(s)* Refills:*2*
14. Oxycodone 10 mg Tablet Sustained Release 12 hr Sig: Two (2) 
Tablet Sustained Release 12 hr PO QAM (once a day (in the 
morning)).
Disp:*qs Tablet Sustained Release 12 hr(s)* Refills:*2*
15. Gabapentin 400 mg Capsule Sig: Two (2) Capsule PO QAM (once 
a day (in the morning)).
Disp:*qs Capsule(s)* Refills:*2*
16. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*qs Tablet(s)* Refills:*2*
17. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*qs Tablet(s)* Refills:*2*
18. Miconazole Nitrate 2 % Cream Sig: One (1) Appl Topical BID 
(2 times a day).
Disp:*qs * Refills:*2*
19. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*qs Tablet(s)* Refills:*2*
20. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).
Disp:*qs Capsule(s)* Refills:*2*
21. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*qs Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Peripheral Vascular Disease
Claudication

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Lower Extremity Bypass Surgery Discharge Instructions

What to expect when you go home:
1. It is normal to feel tired, this will last for ___ weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
•Increase your activities as you can tolerate- do not do too 
much right away!

2. It is normal to have swelling of the leg you were operated 
on:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated

3. It is normal to have a decreased appetite, your appetite will 
return with time 
•You will probably lose your taste for food and lose some 
weight 
•Eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•No driving until post-op visit and you are no longer taking 
pain medications
•Unless you were told not to bear any weight on operative foot: 

•You should get up every day, get dressed and walk
•You should gradually increase your activity
•You may up and down stairs, go outside and/or ride in a car
•Increase your activities as you can tolerate- do not do too 
much right away!
•No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
•You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed
•Take all the medications you were taking before surgery, 
unless otherwise directed
•Take one full strength (325mg) enteric coated aspirin daily, 
unless otherwise directed 
•Call and schedule an appointment to be seen in 2 weeks for 
staple/suture removal

What to report to office:
•Redness that extends away from your incision
•A sudden increase in pain that is not controlled with pain 
medication
•A sudden change in the ability to move or use your leg or the 
ability to feel your leg
•Temperature greater than 100.5F for 24 hours
•Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions

 
Followup Instructions:
___